2152-06-05 07:41:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2152-6-4**] 08:00 AM
 EKG - At [**2152-6-4**] 10:00 AM
 BLOOD CULTURED - At [**2152-6-4**] 10:00 AM
 CHEST PAIN - At [**2152-6-4**] 10:00 AM
   Patient tachycardic, hypertensive, complaining of chest pain7/10, ( in
   the middle), MD notified , o2 sat 90% on 4 liters., 100% NRB applied.
   IV lasix 20 mg giv en , 0.3mg of NTG sl given , 12 lead EKG with no
   change, chest xray done,  temp 99.5 , Blood c/s drawn, IV Vancomycin
   started,
 MULTI LUMEN - START [**2152-6-4**] 02:00 PM
   cxr done at 14;30 and confirmed line placement
 ARTERIAL LINE - START [**2152-6-4**] 02:45 PM
 BLOOD CULTURED - At [**2152-6-4**] 05:22 PM
   fungal isolator.
 ARTERIAL LINE - STOP [**2152-6-4**] 05:30 PM
 ARTERIAL LINE - START [**2152-6-4**] 06:45 PM
 BLOOD CULTURED - At [**2152-6-5**] 12:15 AM
 FEVER - 104.4
F - [**2152-6-5**] 12:00 AM
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-5**] 07:37 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-4**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.7
C (99.8
   HR: 93 (82 - 134) bpm
   BP: 124/56(79) {65/29(42) - 137/56(357)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  6,223 mL
                                                                  4,149 mL
   PO:
                                                                    330 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,518 mL
                                                                  3,969 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,370 mL
                                                                    455 mL
   Urine:
                                                                  1,995 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,853 mL
                                                                  3,694 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/29/86.[**Numeric Identifier 96**]/16/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Warm, LIJ, R radial line
   Neurologic: Responds to: Verbal, Movement: Purposeful
   CV: Tachy, RR no MRG
   Resp: bibasilar crackles, no Wheezes
   Abd: soft, NT/ND NABS
   Ext: trace LE edema
   Labs / Radiology
   124 K/uL
   9.1 g/dL
   163 mg/dL
   0.8 mg/dL
   16 mEq/L
   3.7 mEq/L
   13 mg/dL
   111 mEq/L
   140 mEq/L
   27.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2152-6-4**]  03:22 PM
                             [**2152-6-4**]  03:33 PM
                             [**2152-6-4**]  06:55 PM
                             [**2152-6-4**]  06:58 PM
                             [**2152-6-4**]  07:00 PM
                             [**2152-6-4**]  11:19 PM
                             [**2152-6-4**]  11:30 PM
                             [**2152-6-5**]  01:04 AM
                             [**2152-6-5**]  03:10 AM
                             [**2152-6-5**]  03:28 AM
   WBC
   15.1
   Hct
   26.9
   28.8
   27.1
   Plt
   124
   Cr
   0.8
   0.8
   0.7
   0.8
   TropT
   0.06
   0.05
   TCO2
   19
   18
   19
   19
   20
   Glucose
   154
   103
   115
   163
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.2,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Fibrinogen:881 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.3 g/dL,
   LDH:635 IU/L, Ca++:8.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG, CHF with preserved EF, HTN, hypothyroidism, recent
   admission for right biceps tendon partial rupture vs. tumor who
   presents with DKA.
   .
   # Hyperglycemia. Glucose in 400s with AG 19, ketones in urine c/w DKA.
   Patient has h/o DKA in the past while not on steroids, patient also
   with elevated FS during recent admission with increase in SS insulin.
   - IVF hydration ---has received 2 L in ED (careful monitoring in
   setting of pulmonary edema in the past), NS x 4 hrs then 1/2NS then
   D51/2 NS when FS ~250
   - Aggressive electrolyte repletion
   - q 2 hrs electrolytes
   - FS q 1 hr
   - Insulin gtt at 0.1U/kg/hr and titrate as necessary
   - Continue long acting insulin tomorrow PM
   - r/out infection--send blood cultures x 2, U/A incomplete, resend,
   culture pending, CXR concerning for cavitation with infection vs.
   expanding mass
   - [**Last Name (un) 276**] consult in AM
   .
   # Hypotension. Patient noted to have low SBP on last admission and CCB
   held in that setting. Concern for infection given CXR findings c/w mass
   vs. cavitation/infection. No clear source however.
   - hold BP meds/lasix
   - IVF --bolus per DKA protocol above
   - Monitor resp status in setting of CHF and diastolic dsyfunction
   - CIS
   - If persistently hypotensive or spikes would consider broad spectrum
   antx (vanco/zosyn)
   - obtain sputum if possible
   - Bl cultures x 2
   - repeat U/A, f/up cultures
   - likely needs chest CT to better characterize mass
   - 2 PIVs for now, consider A-line and CVL
   .
   # Leukocytosis w/L shift. Down to 11 with IVF alone. Patient reports
   high grade fever x 1 at home.
   - Bl Cx x 2, U Cx pending
   - ?CT chest to eval mass vs. infection however no cough/sputum
   production, ?abscess formation
   - hold off on empiric antibitics for now pending above
   - trend WBC
   - CIS
   .
   # Anemia. Pt trace guaiac positive stool in ED. Hct down from 29 to 23
   with IVF, baseline low 30s. Colonoscopy/EGD [**2151-4-27**] showing
   gastritis/duodenitis.
   - T&C
   - hemolysis labs
   - check coags/LFTs
   - trend Hct
   - transfuse if hct trending down further (Hct <21), evidence of
   bleeding
   .
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP. Recieved ASA in ED. ECG with stable ST-T changes.
   - ASA, Statin
   - hold BB/ACEI given hypotension
   .
   # CHF. Preserved EF but with diastolic dysfunction. H/o pulmonary edema
   and intubation in the past. Monitor resp status in setting of IVF
   hydration.
   - hold lasix
   - I/Os
   - follow clinically
   .
   # Metastatic Breast CA to lung and brain. CXR showing evidence of rapid
   growth of likely metastatic mass in lung. Suggest CT when stable.
   - touch base with Oncology
   - at end of steroid taper --hold further steroids given severe
   hyperglycemia
   - consider CT chest to better evaluate chest mass
   .
   # HTN. Recently has been on low side, holding BP meds and lasix.
   .
   # Hypothyroid. Continue synthroid.
   .
   # Gout. Cont Allopurinol and cholchicine.
   .
   # GERD. Cont PPI
   .
   # PPx. Hep SC, PPI, bowel reg
   .
   # FEN. IVF per DKA [**Last Name (un) 276**] protocol, replete lytes q 2 hrs, NPO for now.
   .
   # Access: PIV and EJ for now, may need CVL for electrolyte repletion,
   A-line for BP monitoring and ABG's
   .
   # Code: full presumed
   .
   # Dispo: ICU level of care
   ICU Care
   Nutrition:
   Comments: Diabetic
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2152-6-4**] 05:46 AM
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2152-06-08 07:54:00 Physician Resident Progress Note
Chief Complaint: metastatic breast cancer
   sepsis
   24 Hour Events:
 FEVER - 101.3
F - [**2152-6-7**] 08:00 AM
    -family meeting held, pt made DNR/DNI
   - started on levophed but had  increasing atrial ectopy - switched to
   neo with improved toleration
   - received 1 U PRBC - required 20mg lasix following blood
   - restarted on hydrocortisone
   - Pt increasingly tachypnic this am, complaining of pain - given IV
   morphine X2
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-6**] 08:30 PM
   Clindamycin - [**2152-6-7**] 11:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-7**] 11:43 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2152-6-7**] 12:07 PM
   Pantoprazole (Protonix) - [**2152-6-7**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain, now resolved
   Respiratory: Cough, Dyspnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, soft BM this a.m.
   Pain: [**2-29**] Mild
   Pain location: R arm
   Flowsheet Data as of  [**2152-6-8**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.3
   HR: 117 (65 - 136) bpm
   BP: 102/60(76) {72/39(51) - 150/74(100)} mmHg
   RR: 32 (19 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 15 (10 - 18)mmHg
   Total In:
                                                                  4,093 mL
                                                                    805 mL
   PO:
   TF:
   IVF:
                                                                  3,821 mL
                                                                    805 mL
   Blood products:
                                                                    273 mL
   Total out:
                                                                  1,595 mL
                                                                    440 mL
   Urine:
                                                                  1,595 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,498 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.31/27/65/12/-11
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar, L > R, Wheezes : bilateral diffuse wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   9.7 g/dL
   131 mg/dL
   1.2 mg/dL
   12 mEq/L
   3.9 mEq/L
   18 mg/dL
   114 mEq/L
   142 mEq/L
   31.8 %
   30.2 K/uL
        [image002.jpg]
                             [**2152-6-5**]  07:56 PM
                             [**2152-6-6**]  01:06 AM
                             [**2152-6-6**]  04:28 AM
                             [**2152-6-6**]  11:44 AM
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
   WBC
   17.5
   14.2
   30.2
   Hct
   26.7
   25.2
   23.5
   31.8
   Plt
   93
   98
   124
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   0.9
   1.1
   1.2
   TCO2
   17
   14
   Glucose
   [**Telephone/Fax (3) 3126**]59
   106
   119
   116
   131
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.5 mg/dL
   Microbiology: PCP negative sputum [**6-5**]
   Blood cx and urine cx negative
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG,admitted with DKA and now with fever and hypotension
   c/w sepsis likely pulmonary source
   # Sepsis. Pt on vanc/zosyn/clinda for presumed pulmonary source given
   LLL mass with necrotic area on CT scan.
   -hypotensive and on steroid taper so stress dose steroids started
   hydrocort 50q6
   -no culture data yet but on broad spectrum antibiotics
   - hold all standing fluids, bolus prn (w/ consideration for respiratory
   status) and start pressors (neosynephrine) for MAP < 65
   -CVP 10-11, tolerate slightly lower CVP ([**6-4**]) given respiratory status
   if only requiring low dose pressor
   - Glucan and Galactomannan [**6-4**]
 negative
   -soft stool and increase wbc- send c diff x 3
   -add on diff for leukocytosis and send cultures for leukocytosis, fever
   may not be reliable given steroids
   -switch clinda to flagyl for anaerobic coverage given possibility of C
   diff
   # hypoxia: PaO2 is 65 while on FiO2 33%.
   -O2 sat 90%.
   -diastolic dysfunction with preserved EF, in addition to large amounts
   of fluids likely related to heart failure as well as aggressive
   metastatic cancer
   -significant bilateral diffuse wheezes on exam
   -attempt to use fluids gingerly and start standing nebs - atrovent and
   albuterol
   # Acidosis: Gap 16.
   -continue to trend, send a lactate this a.m.
   -glucose 131, unlikely persistent DKA
   -send u/a to check for ketones, may need insulin drip increased and D5
   or D10 started to maintain euglycemia
   # Renal Failure: possibly related to hypotension and sepsis.
   -send urine lytes
   -continue to trend
   -re-renally dose medications, check vanc level in a.m.
   -f/u this a.m. vanc level and q am until renal function stabilizes
   # Hyperglycemia. Pt initially in DKA on admission
   - will continue insulin gtt as on  steroids
   - Aggressive electrolyte repletion
   # Anemia/Thrombocytopenia -
   -1 unit PRBC hct from 23 to 31.8
   -daily hct
   -thrombocytopenia- HIT negative
   -restart sc heparin, possibly due to sepsis
   -DIC negative
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP.
   - Statin
   - hold BB/ACEI given hypotension
   # Metastatic Breast CA to lung and brain.
   - CXR showing evidence of rapid growth of likely metastatic mass in
   lung. Suggest CT when stable.
   - continue medial treatment for above prior to possible chemo
   -pain: continue lidocaine patch, oxycodone prn
   # PPx. boots, PPI, bowel reg, restart heparin sc
   # FEN. diabetic diet.
   # Access: LIJ [**6-5**], R rad art line [**6-5**]
   # Code: full
   # Dispo: ICU level of care. Plan for family meeting to discuss goals of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-6-4**] 05:46 AM
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2152-06-09 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Elevated lactate 2.6 in setting of prior day's hypotension
   Ulytes consistent with prerenal etiology
   2L +
   On levophed yesterday- not on neo
   MAPS high 50s overnight on levophed. Given 250cc bolux x1 for low urine
   output. UO increased to 30cc/hr.
   Mental status fine
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Vancomycin - [**2152-6-8**] 12:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-9**] 01:30 AM
   Metronidazole - [**2152-6-9**] 02:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-8**] 07:52 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-8**] 10:00 PM
   Morphine Sulfate - [**2152-6-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, LACK OF APPETITE
   Flowsheet Data as of  [**2152-6-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 90 (79 - 112) bpm
   BP: 106/45(65) {87/41(58) - 117/60(80)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  3,250 mL
                                                                    685 mL
   PO:
                                                                    510 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,740 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    210 mL
   Urine:
                                                                  1,145 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,105 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.35/28/66/16/-8
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse bilateral ronchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   8.3 g/dL
   128 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.3 mEq/L
   19 mg/dL
   114 mEq/L
   145 mEq/L
   26.5 %
   25.7 K/uL
        [image002.jpg]
                             [**2152-6-6**]  04:28 AM
                             [**2152-6-6**]  11:44 AM
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
   WBC
   17.5
   14.2
   30.2
   25.7
   Hct
   25.2
   23.5
   31.8
   26.5
   Plt
   93
   98
   124
   Cr
   0.6
   0.7
   0.7
   0.9
   1.1
   1.2
   1.0
   TCO2
   17
   14
   16
   Glucose
   286
   259
   106
   119
   116
   131
   128
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:88.7 %, Band:0.0 %, Lymph:0.0 %, Mono:7.5 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Imaging: cxr [**6-8**]: IMPRESSION: Newly developed severe pulmonary edema.
   Microbiology: no new culture data
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG,admitted with DKA and now with fever and hypotension
   c/w sepsis likely pulmonary source
   # Sepsis. Pt on vanc/zosyn/flagyl for presumed pulmonary source given
   LLL mass with necrotic area on CT scan.
   -hypotensive and on steroid taper so stress dose steroids started
   hydrocort 50q6, when stable off pressors can begin to taper antibiotics
   -no culture data yet but on broad spectrum antibiotics
   - hold all standing fluids, bolus prn (w/ consideration for respiratory
   status) and start pressors (neosynephrine) for MAP < 65
   -CVP 10-11, tolerate slightly lower CVP ([**6-4**]) given respiratory status
   if only requiring low dose pressor
   - Glucan and Galactomannan [**6-4**]
 negative
   -denies diarrhea, if diarrhea send c diff
   -leukocytosis improving, no bandemia, in setting of steroids in
   addition to sepsis
   -switched clinda to flagyl for anaerobic coverage given possibility of
   C diff
   # hypoxia:
   -O2 sat 95%. on 5 L NC, diastolic CHF, severe pulmonary edema on CXR
   -attempt to use fluids gingerly and start standing nebs - atrovent and
   albuterol
   # Acidosis: Gap 15 down from 16.
   -continue to trend, lactate elevated
   -urine ketones negative
   # Renal Failure: possibly related to hypotension and sepsis.
   -urine lytes- c/w pre renal etiology, likely low bp / sepsis
   -improving with better controlled bp
   -re-renally dose medications, check vanc level in a.m.
   -f/u this a.m. vanc level and q am until renal function stabilizes
   -may need to adjust zosyn dose with improved renal function
   # Hyperglycemia. Pt initially in DKA on admission
   - will continue insulin gtt as on  steroids
   - Aggressive electrolyte repletion
   # Anemia/Thrombocytopenia -
   -1 unit PRBC hct from 23 to 31.8 now down to 26, more c/w appropriate
   increase from 1 uPRBC, trend daily
   -daily hct
   -thrombocytopenia- HIT negative
   -restart sc heparin, possibly due to sepsis
   -DIC negative
   -f/u this a.m. platelets
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP.
   - Statin
   - hold BB/ACEI given hypotension
   # Metastatic Breast CA to lung and brain.
   - CXR showing evidence of rapid growth of likely metastatic mass in
   lung. Suggest CT when stable.
   - continue medial treatment for above prior to possible chemo
   -pain: continue lidocaine patch, oxycodone prn
   -pain improving
   # PPx. boots, PPI, bowel reg, restart heparin sc
   # FEN. diabetic diet. plans on attempting to eat small amount today,
   not nauseas but no appetite
   # Access: LIJ [**6-5**], R rad art line [**6-5**]
   # Code: DNR / DNI
   # Dispo: ICU level of care. Plan for family meeting to discuss goals of
   care
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:ICU

2152-06-09 10:34:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues on Levophed (never was switched to Neo)
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-9**] 08:19 AM
   Vancomycin - [**2152-6-9**] 08:53 AM
   Metronidazole - [**2152-6-9**] 10:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-9**] 08:20 AM
   Morphine Sulfate - [**2152-6-9**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-9**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 81 (79 - 106) bpm
   BP: 110/48(68) {93/41(58) - 117/58(78)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  3,248 mL
                                                                  1,591 mL
   PO:
                                                                    510 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  2,738 mL
                                                                  1,091 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    290 mL
   Urine:
                                                                  1,145 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,103 mL
                                                                  1,301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/28/66/16/-8
   Physical Examination
   General Appearance: No acute distress, states feel smuch better this
   AM, +cushingoid,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished at bases, no wheezes,
   no rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  warm
   Neurologic: conversant
   Labs / Radiology
   8.3 g/dL
   97 K/uL
   128 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.3 mEq/L
   19 mg/dL
   114 mEq/L
   145 mEq/L
   26.5 %
   25.7 K/uL
        [image002.jpg]
                             [**2152-6-6**]  04:28 AM
                             [**2152-6-6**]  11:44 AM
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
   WBC
   17.5
   14.2
   30.2
   25.7
   Hct
   25.2
   23.5
   31.8
   26.5
   Plt
   93
   98
   124
   97
   Cr
   0.6
   0.7
   0.7
   0.9
   1.1
   1.2
   1.0
   TCO2
   17
   14
   16
   Glucose
   286
   259
   106
   119
   116
   131
   128
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan65 year old woman with met breast, DKA, sepsis
   1.             Sepsis: ? lung etiology, no pos cx, Rxing broadly with
   Vanco, Zosyn, Flagyl. Continues on low dose pressor and Hydrocort.
   Wean Levophed to goal MAP 65. Follow up cultures and adjust
   accordingly.
   2.             Lung mass : rapid increase in size : repeat CT to try to
   differentiate mets vs infection/abscess and determine whether drainage
   may be helpful and feasible
   3.             Arf: likely Atn from hypotension, Cr improving, readjust
   meds
   4.             DM: switched to glargine and off insulin gtts without
   evidence for DKA.
   5.             Anemia: s/p Tx with lasix with good Hct.
   6.             Breast ca with brain mets, likely right arm mets,
   possible lung mets- repeat CT to better characterize.
    Remainder of issues as per housestaff notes
   ICU Care
   Nutrition: taking po
   Glycemic Control:  glargine
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Communication: Family meeting held
   Code status: DNR / DNI
   Disposition : ICU until we can wean off pressors
   Total time spent: 40

2152-06-09 11:48:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-9**] 08:19 AM
   Vancomycin - [**2152-6-9**] 08:53 AM
   Metronidazole - [**2152-6-9**] 10:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-9**] 08:20 AM
   Morphine Sulfate - [**2152-6-9**] 11:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-9**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 97 (79 - 106) bpm
   BP: 115/51(72) {93/41(58) - 119/57(78)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  3,248 mL
                                                                  1,626 mL
   PO:
                                                                    510 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  2,738 mL
                                                                  1,126 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    340 mL
   Urine:
                                                                  1,145 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,103 mL
                                                                  1,286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.35/28/66/16/-8
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   97 K/uL
   128 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.3 mEq/L
   19 mg/dL
   114 mEq/L
   145 mEq/L
   26.5 %
   25.7 K/uL
        [image002.jpg]
                             [**2152-6-6**]  04:28 AM
                             [**2152-6-6**]  11:44 AM
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
   WBC
   17.5
   14.2
   30.2
   25.7
   Hct
   25.2
   23.5
   31.8
   26.5
   Plt
   93
   98
   124
   97
   Cr
   0.6
   0.7
   0.7
   0.9
   1.1
   1.2
   1.0
   TCO2
   17
   14
   16
   Glucose
   286
   259
   106
   119
   116
   131
   128
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Continues on Levophed (never was switched to Neo) but tachycardia
   stable and now able to wean pressor slightly this AM
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-9**] 08:19 AM
   Vancomycin - [**2152-6-9**] 08:53 AM
   Metronidazole - [**2152-6-9**] 10:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-9**] 08:20 AM
   Morphine Sulfate - [**2152-6-9**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-9**] 10:24 AM
   Vital signs             Hemodynamic monitoring Fluid balance       24
   hours                Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 81 (79 - 106) bpm
   BP: 110/48(68) {93/41(58) - 117/58(78)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                   CVP: 8 (6 - 13)mmHg
                   Total In:  3,248 mL               1,591 mL
                                   PO:         510 mL  500 mL
                                   TF:
                                   IVF:         2,738 mL
   1,091 mL
                                   Blood products:
                                   Total out:               1,145
   mL               290 mL
                                   Urine:     1,145 mL               290
   mL
                                   NG:
                                   Stool:
                                   Drains:
                                   Balance:                2,103
   mL               1,301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%           ABG: 7.35/28/66/16/-8
   Physical Examination
   General Appearance: No acute distress, states feel smuch better this
   AM, +cushingoid,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished at bases, no wheezes,
   no rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  warm
   Neurologic: conversant
   Labs / Radiology
                   [**2152-6-6**]  04:28 AM           [**2152-6-6**]  11:44
   AM           [**2152-6-6**]  08:23 PM           [**2152-6-7**]  05:18
   AM           [**2152-6-7**]  05:01 PM               [**2152-6-7**]  11:08
   PM           [**2152-6-8**]  03:58 AM           [**2152-6-8**]  04:08
   AM           [**2152-6-8**]  01:38 PM                [**2152-6-9**]  05:24 AM
   WBC       17.5
   14.2
   30.2                                        25.7
   Hct          25.2
   23.5
   31.8                                        26.5
   Plt           93
   98
   124                                         97
   Cr            0.6          0.7          0.7          0.9
   1.1
   1.2                                          1.0
   TCO2
                     17                           14
   16
   Glucose 286         259         106         119
   116                         131
   128
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan 65 year old woman with met breast, DKA, sepsis
   1.             Sepsis: ? lung etiology, no pos cx, Rxing broadly with
   Vanco, Zosyn, Flagyl. Continues on low dose pressor and Hydrocort.
   Wean Levophed to goal MAP 65. Follow up cultures and adjust
   accordingly.
   2.             Lung mass : rapid increase in size : repeat CT to try to
   differentiate mets vs infection/abscess and determine whether drainage
   may be helpful and feasible
   3.             Arf: likely Atn from hypotension, Cr improving, readjust
   meds
   4.             DM: switched to glargine and off insulin gtts without
   evidence for DKA.
   5.             Anemia: s/p Tx with lasix with good Hct.
   6.             Breast ca with brain mets, likely right arm mets,
   possible lung mets- repeat CT to better characterize.
    Remainder of issues as per housestaff notes
   ICU Care
   Nutrition: taking po
   Glycemic Control:  glargine
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Communication: Family meeting held
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 40
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2152-06-10 07:21:00 Physician Resident Progress Note
Chief Complaint: Sepsis, Metastatic Breast Ca
   [**67**] Hour Events:
   Pt received 10mg IV Lasix for + 2L overnight. Off pressors since 12pm.
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Vancomycin - [**2152-6-9**] 08:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-10**] 01:30 AM
   Metronidazole - [**2152-6-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-9**] 10:00 PM
   Furosemide (Lasix) - [**2152-6-9**] 11:00 PM
   Morphine Sulfate - [**2152-6-10**] 05:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 94 (81 - 103) bpm
   BP: 123/56(77) {102/43(62) - 134/63(89)} mmHg
   RR: 16 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 15 (7 - 15)mmHg
   Total In:
                                                                  2,785 mL
                                                                    456 mL
   PO:
                                                                  1,030 mL
   TF:
   IVF:
                                                                  1,695 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                  1,080 mL
   Urine:
                                                                    860 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,925 mL
                                                                   -624 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   8.4 g/dL
   188 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.4 mEq/L
   23 mg/dL
   115 mEq/L
   144 mEq/L
   26.0 %
   29.0 K/uL
        [image002.jpg]
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
   WBC
   14.2
   30.2
   25.7
   29.0
   Hct
   23.5
   31.8
   26.5
   25.9
   26.0
   Plt
   98
   124
   97
   90
   Cr
   0.7
   0.9
   1.1
   1.2
   1.0
   1.0
   TCO2
   17
   14
   16
   Glucose
   106
   119
   116
   131
   128
   188
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Microbiology: Vanco - 15.6
   [**2152-6-9**] 5:30 am SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2152-6-9**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
      RESPIRATORY CULTURE (Final [**2152-6-9**]):
         TEST CANCELLED, PATIENT CREDITED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   [**2152-6-7**] 8:43 am URINE      Source: Catheter.
                               **FINAL REPORT [**2152-6-8**]**
      URINE CULTURE (Final [**2152-6-8**]):    NO GROWTH
   [**2152-6-7**] 9:40 am BLOOD CULTURE      Source: Line-triple lumen.
      Blood Culture, Routine (Pending
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG,admitted with DKA and now with fever and hypotension
   c/w sepsis likely pulmonary source now HD stable.
   .
   # Altered MS
 pt with increased somnolence this am, difficulty
   answering questions.
 Possibly  due to narcotics for pain, vs
   infections vs know metastatic breast ca.
 Will obtain CT Head to r/o
   bleed due to known mets. Will repeat AGB
 monitor for CO2 retention.
   Continue opiates to adequately treat pain, monitor for sedation
   # Sepsis. Pt on vanc/zosyn/flagyl for presumed pulmonary source given
   LLL mass with necrotic area on CT scan.
   -hypotensive and on steroid taper so stress dose steroids started
   hydrocort 50q6, when stable off pressors can begin to taper antibiotics
   -no culture data yet but on broad spectrum antibiotics
   - hold all standing fluids, bolus prn (w/ consideration for respiratory
   status) and start pressors (neosynephrine) for MAP < 65
   -CVP 10-11, tolerate slightly lower CVP ([**6-4**]) given respiratory status
   if only requiring low dose pressor
   - Glucan and Galactomannan [**6-4**]
 negative
   -denies diarrhea, if diarrhea send c diff
   -leukocytosis improving, no bandemia, in setting of steroids in
   addition to sepsis
   -switched clinda to flagyl for anaerobic coverage given possibility of
   C diff
   # hypoxia:
   -O2 sat 95%. on 5 L NC, diastolic CHF, severe pulmonary edema on CXR
   -attempt to use fluids gingerly and start standing nebs - atrovent and
   albuterol
   - give lasix 10mg IV
   # Acidosis: Gap 11 down from 15.
   -continue to trend, lactate elevated
   -urine ketones negative
   # Renal Failure: possibly related to hypotension and sepsis.
   -urine lytes- c/w pre renal etiology, likely low bp / sepsis
   -improving with better controlled bp
   -re-renally dose medications, check vanc level in a.m.
   -f/u this a.m. vanc level and q am until renal function stabilizes
   -may need to adjust zosyn dose with improved renal function
   # Hyperglycemia. Pt initially in DKA on admission
   - will continue insulin SC
   - Aggressive electrolyte repletion
   # Anemia/Thrombocytopenia -
   -transfuse 1 U PRB for HCT 19
   -thrombocytopenia- HIT negative
   -restart sc heparin, possibly due to sepsis
   -DIC negative
   -f/u this a.m. platelets
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP.
   - Statin
   - hold BB/ACEI given hypotension
   # Metastatic Breast CA to lung and brain.
   - CXR showing evidence of rapid growth of likely metastatic mass in
   lung. Suggest CT when stable.
   - continue medial treatment for above prior to possible chemo
   -pain: continue lidocaine patch, oxycodone prn
   -pain improving
   # PPx. boots, PPI, bowel reg, restart heparin sc
   # FEN. diabetic diet. plans on attempting to eat small amount today,
   not nauseas but no appetite
   # Access: LIJ [**6-5**], R rad art line [**6-5**]
   # Code: DNR / DNI
   # Dispo: ICU level of care. Plan for family meeting to discuss goals of
   care
   ICU Care
   Nutrition:  Diabetic
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-10 12:00:00 Physician Attending Progress Note
Chief Complaint: sepsis ?due to pulmonary source
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo with metastatic Breast CA, p/w septic shock, with h/o necrotic
   chest lesion.  Treated for PNA, improved, weaned off of pressors.
   Intermittently dilerious.
   24 Hour Events:
 CALLED OUT
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Clindamycin - [**2152-6-8**] 07:51 AM
   Metronidazole - [**2152-6-10**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-10**] 07:40 AM
   Vancomycin - [**2152-6-10**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-9**] 11:00 PM
   Morphine Sulfate - [**2152-6-10**] 05:00 AM
   Pantoprazole (Protonix) - [**2152-6-10**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-10**] 08:30 AM
   Other medications:
   ASA
   allopurinol
   lidocaine patch
   hydrocort
   nystatin
   synthroid
   glargine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-6-10**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 99 (88 - 103) bpm
   BP: 133/63(88) {112/48(69) - 134/63(89)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
   CVP: 9 (6 - 15)mmHg
   Total In:
                                                                  2,785 mL
                                                                    976 mL
   PO:
                                                                  1,030 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,695 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                  1,160 mL
   Urine:
                                                                    860 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,925 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Lethargic, occasionally confused
   Labs / Radiology
   8.4 g/dL
   90 K/uL
   188 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.4 mEq/L
   23 mg/dL
   115 mEq/L
   144 mEq/L
   26.0 %
   29.0 K/uL
        [image002.jpg]
                             [**2152-6-6**]  08:23 PM
                             [**2152-6-7**]  05:18 AM
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
   WBC
   14.2
   30.2
   25.7
   29.0
   Hct
   23.5
   31.8
   26.5
   25.9
   26.0
   Plt
   98
   124
   97
   90
   Cr
   0.7
   0.9
   1.1
   1.2
   1.0
   1.0
   TCO2
   17
   14
   16
   Glucose
   106
   119
   116
   131
   128
   188
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Microbiology: Urine culture no growth
   blood cx with no growth
   Assessment and Plan
   Acute Delirium:  Unclear cause could be due to ICU stay, medication
   related, versus due to metastatic disease.  Will get head CT as unclear
   if she is somewhat dysarthric.
   Sepsis:  Continue Vanco/Zosyn/Flagyl for  necrotic PNA, improved off
   pressors.  Wean hydrocort
   Leukocytosis: Unclear cause, follow up cultures.  Check for C. diff.
   Hypoxemia:  Continue gentle diuresis for pulmonary edema.
   Brain mets:  head CT planned.
   Anemia:
   Thrombocytopenia:
   Metastatic Breast CA:
   Pain control:  Restart fentanyl patch with breakthrough.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2152-06-11 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT Head negative for bleed
   MS mildly improved
   added fentanyl patch for pain control - improving
   HD stable
   call out this am
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-10**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-11**] 02:00 AM
   Metronidazole - [**2152-6-11**] 02:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-10**] 08:30 AM
   Furosemide (Lasix) - [**2152-6-10**] 12:30 PM
   Morphine Sulfate - [**2152-6-10**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2152-6-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 104 (88 - 109) bpm
   BP: 129/55(81) {122/51(76) - 153/72(100)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 7 (6 - 10)mmHg
   Total In:
                                                                  1,400 mL
                                                                    497 mL
   PO:
                                                                    280 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    320 mL
   Urine:
                                                                  2,460 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.42/29/87.[**Numeric Identifier 244**]/20/-3
   Physical Examination
   General Appearance: In pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Person, place. Time: 205 for year and date,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   86 K/uL
   8.6 g/dL
   161 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.0 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   26.5 %
   32.4 K/uL
        [image002.jpg]
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
                             [**2152-6-10**]  12:16 PM
                             [**2152-6-11**]  03:04 AM
   WBC
   30.2
   25.7
   29.0
   32.4
   Hct
   31.8
   26.5
   25.9
   26.0
   26.5
   Plt
   124
   97
   90
   86
   Cr
   1.1
   1.2
   1.0
   1.0
   0.9
   TCO2
   17
   14
   16
   19
   Glucose
   116
   131
   128
   188
   161
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:11.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG,admitted with DKA and now with fever and hypotension
   c/w sepsis likely pulmonary source now HD stable.
   .
   # Altered MS
 pt with increased somnolence this am, difficulty
   answering questions.
 Possibly  due to narcotics for pain, vs
   infections vs know metastatic breast ca.
 Will obtain CT Head to r/o
   bleed due to known mets. Will repeat AGB
 monitor for CO2 retention.
   Continue opiates to adequately treat pain, monitor for sedation
   - CT Head negative
   - Likely secondary to ....
   # Sepsis. Pt on vanc/zosyn/flagyl for presumed pulmonary source given
   LLL mass with necrotic area on CT scan.
   - hypotensive and on steroid taper so stress dose steroids started
   hydrocort 50q6, when stable off pressors can begin to taper antibiotics
   - no culture data yet but on broad spectrum antibiotics
   - hold all standing fluids, bolus prn (w/ consideration for respiratory
   status) and start pressors (neosynephrine) for MAP < 65
   - CVP 10-11, tolerate slightly lower CVP ([**6-4**]) given respiratory status
   if only requiring low dose pressor
   - Glucan and Galactomannan [**6-4**]
 negative
   -denies diarrhea, if diarrhea send c diff
   -leukocytosis improving, no bandemia, in setting of steroids in
   addition to sepsis
   -switched clinda to flagyl for anaerobic coverage given possibility of
   C diff
   # hypoxia:
   -O2 sat 95%. on 5 L NC, diastolic CHF, severe pulmonary edema on CXR
   -attempt to use fluids gingerly and start standing nebs - atrovent and
   albuterol
   - give lasix 10mg IV
   # Acidosis: Gap 11 down from 15.
   -continue to trend, lactate elevated
   -urine ketones negative
   # Renal Failure: possibly related to hypotension and sepsis.
   -urine lytes- c/w pre renal etiology, likely low bp / sepsis
   -improving with better controlled bp
   -re-renally dose medications, check vanc level in a.m.
   -f/u this a.m. vanc level and q am until renal function stabilizes
   -may need to adjust zosyn dose with improved renal function
   # Hyperglycemia. Pt initially in DKA on admission
   - will continue insulin SC
   - Aggressive electrolyte repletion
   # Anemia/Thrombocytopenia -
   -transfuse 1 U PRB for HCT 19
   -thrombocytopenia- HIT negative
   -restart sc heparin, possibly due to sepsis
   -DIC negative
   -f/u this a.m. platelets
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP.
   - Statin
   - hold BB/ACEI given hypotension
   # Metastatic Breast CA to lung and brain.
   - CXR showing evidence of rapid growth of likely metastatic mass in
   lung. Suggest CT when stable.
   - continue medial treatment for above prior to possible chemo
   -pain: continue lidocaine patch, oxycodone prn
   -pain improving
   # PPx. boots, PPI, bowel reg, restart heparin sc
   # FEN. diabetic diet. plans on attempting to eat small amount today,
   not nauseas but no appetite
   # Access: LIJ [**6-5**], R rad art line [**6-5**]
   # Code: DNR / DNI
   # Dispo: ICU level of care. Plan for family meeting to discuss goals of
   care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-11 12:06:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   65 yo with metastic breast CA, p/w septic shock thought to be from
   necrotic lung lesion.
   24 Hour Events:
   negative CT head for new bleed, but resolution of hemorrhagic foci and
   mass effect/edema
   still somewhat confused, but knows she's at [**Hospital3 **]
   unable to take po meds
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2152-6-11**] 02:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-11**] 08:05 AM
   Vancomycin - [**2152-6-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-10**] 12:30 PM
   Morphine Sulfate - [**2152-6-10**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2152-6-10**] 10:00 PM
   Other medications:
   lipitor
   vitamin D
   FeSo4
   lido patch
   solucortef 50mg IV to stop today
   synthroid
   protonix
   hep s/q
   glargine
   SSI
   fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-11**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 104 (89 - 110) bpm
   BP: 142/65(91) {122/51(76) - 153/72(100)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
   CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  1,400 mL
                                                                    817 mL
   PO:
                                                                    280 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    717 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    580 mL
   Urine:
                                                                  2,460 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.42/29/87.[**Numeric Identifier 244**]/20/-3
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): to name and
   place, not date, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   86 K/uL
   161 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.0 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   26.5 %
   32.4 K/uL
        [image002.jpg]
                             [**2152-6-7**]  05:01 PM
                             [**2152-6-7**]  11:08 PM
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
                             [**2152-6-10**]  12:16 PM
                             [**2152-6-11**]  03:04 AM
   WBC
   30.2
   25.7
   29.0
   32.4
   Hct
   31.8
   26.5
   25.9
   26.0
   26.5
   Plt
   124
   97
   90
   86
   Cr
   1.1
   1.2
   1.0
   1.0
   0.9
   TCO2
   17
   14
   16
   19
   Glucose
   116
   131
   128
   188
   161
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:11.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   Sepsis: Continue Vanco/Zosyn/Flagyl for necrotic PNA
   Delirium:  slightly better today, but still not completely oriented.
   Is hypernatremic and hypercalcemic today which may be playing a role.
   steroids may also be playing a role.
   Hypercalcemia:  unclear why she is higher today than in past days, may
   be due to steroids.
   Hypernatremic:  Free water repletion
   AG acidosis:  Lactate normal yesterday, could be due to ketones.
   recheck ketones.
   DM control: should improve once off steroids today.
   Titrate up the fentanyl.
   Prognosis overall poor.  Will need to re-address goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:   Watch off steroids after today
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 35 minutes

2152-06-12 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hemodynamically stable overnight
   Stopped taking POs and less interactive
   AG of 14; urine with trace ketones; lactate normal
   Started D5W for elevated sodium- got total of 500cc D5W
   Elevated FS- likely in setting D5W + steroids (last day yesterday); FS
   will likely decrease with d/c of steroids
   Calcium > 12 with albumin correction
   Started IVFs, lasix, calcitonin
   Heff called; he'll be by on Monday to discuss goals of care ie hospice,
   CMO
   History obtained from Patient
   Allergies:
   History obtained from PatientImdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-11**] 09:00 AM
   Metronidazole - [**2152-6-12**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-12**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-11**] 09:33 PM
   Morphine Sulfate - [**2152-6-12**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 97 (96 - 117) bpm
   BP: 142/57(88) {121/54(77) - 147/65(92)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
    CVP: 6 (5 - 10)mmHg
   Total In:
                                                                  1,923 mL
                                                                    444 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,823 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                  1,260 mL
   Urine:
                                                                  2,080 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Normal, Answers questions but requires
   persistent stimulation
   Labs / Radiology
   73 K/uL
   8.5 g/dL
   216 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.1 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   26.5 %
   32.4 K/uL
        [image002.jpg]
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
                             [**2152-6-10**]  12:16 PM
                             [**2152-6-11**]  03:04 AM
                             [**2152-6-11**]  04:47 PM
                             [**2152-6-12**]  05:04 AM
   WBC
   30.2
   25.7
   29.0
   32.4
   32.4
   Hct
   31.8
   26.5
   25.9
   26.0
   26.5
   26.5
   Plt
   124
   97
   90
   86
   73
   Cr
   1.2
   1.0
   1.0
   0.9
   1.0
   0.9
   TCO2
   14
   16
   19
   Glucose
   131
   128
   188
   161
   268
   216
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:10.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   65 F with metastatic breast CA to brain and lung, on steroid taper, DM
   II, CAD s/p CABG,admitted with DKA and now with fever and hypotension
   c/w sepsis likely pulmonary source now HD stable.
    .
   # Altered MS
 pt with increased somnolence, difficulty answering
   questions.
 Possibly  due to narcotics for pain, vs infections vs
   known metastatic breast ca.
CT Head yesterday to r/o  bleed due to
   known mets was negative. Continue opiates to adequately treat pain,
   monitor for sedation.
   - CT Head negative
   # Sepsis. Pt on vanc/zosyn/flagyl for presumed pulmonary source given
   LLL mass with necrotic area on CT scan.
   - hypotensive and on steroid taper so stress dose steroids started
   hydrocort 50q6, when stable off pressors can begin to taper antibiotics
   - no culture data yet but on broad spectrum antibiotics
   - hold all standing fluids, bolus prn (w/ consideration for respiratory
   status) and start pressors (neosynephrine) for MAP < 65
   - CVP 10-11, tolerate slightly lower CVP ([**6-4**]) given respiratory status
   if only requiring low dose pressor
   - Glucan and Galactomannan [**6-4**]
 negative
   -denies diarrhea, if diarrhea send c diff
   -persistent leukocytosis: ? secondary to steroids
   -switched clinda to flagyl for anaerobic coverage given possibility of
   C diff
   # hypoxia:
   -O2 sat 95%. on 5 L NC, diastolic CHF, severe pulmonary edema on CXR
   - give lasix 10mg IV
   # Acidosis: Gap elevated to 14; if + urine ketones, will restart
   insulin gtt
   -continue to trend lactate
   - check urine ketones
   # Renal Failure: possibly related to hypotension and sepsis. Cr 0.9
   today and trending down
   -urine lytes- c/w pre renal etiology, likely low bp / sepsis
   -improving with better controlled bp
   -f/u this a.m. vanc level and q am until renal function stabilizes
   # Hyperglycemia. Pt initially in DKA on admission; ck urine ketones and
   start insulin gtt if positive; Elevated FS in setting of steroids- last
   day today
   - will continue insulin SC
   - Aggressive electrolyte repletion
   # Anemia/Thrombocytopenia
 HCT 26.5 today but trending down; platelets
   tredning down as well- may be marrow suppression in setting of
   infection.
   -transfuse 1 U PRB for HCT 19
   -thrombocytopenia- HIT negative
   -restart sc heparin, possibly due to sepsis
   -DIC negative
   - reck HCT
   # CAD. s/p CABG with progressive angina, now medically managed.
   Currently w/out CP.
   - Statin
   - hold BB/ACEI given hypotension
   # Metastatic Breast CA to lung and brain.
   - CXR showing evidence of rapid growth of likely metastatic mass in
   lung. Suggest CT when stable.
   -pain: continue lidocaine patch, oxycodone prn;
   # PPx. boots, PPI, bowel reg, restart heparin sc
   # FEN. diabetic diet. plans on attempting to eat small amount today,
   not nauseas but no appetite
   # Access: LIJ [**6-5**], R rad art line [**6-5**]
   # Code: DNR / DNI
   # Dispo: ICU level of care. Plan for family meeting to discuss goals of
   care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2152-06-12 10:13:00 Physician Attending Progress Note
Chief Complaint: resp failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo woman with metastatic breast cancer, admitted with DKA and
   developed sepsis, both of which resolved, but developed altered mental
   status. Now lethargic, minimally communicating. Still in some pain,
   localizes to right arm and diffusely in abdomen. Very poor PO intake
   throughout hospitalization. No fevers, Hemodynamically stable.
   24 Hour Events:
   hypercalcemia responded to tx
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2152-6-12**] 02:00 AM
   Vancomycin - [**2152-6-12**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-12**] 09:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-6-11**] 09:33 PM
   Morphine Sulfate - [**2152-6-12**] 07:31 AM
   Pantoprazole (Protonix) - [**2152-6-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-12**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 102 (95 - 117) bpm
   BP: 132/56(84) {121/53(77) - 147/65(92)} mmHg
   RR: 15 (10 - 17) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
   CVP: 7 (5 - 11)mmHg
   Total In:
                                                                  1,923 mL
                                                                    812 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,823 mL
                                                                    812 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                  1,560 mL
   Urine:
                                                                  2,080 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                   -748 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese, weak, lethargic
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Bowel sounds present, Tender: diffuse
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, left IJ site looks good
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed. Oriented to person only.
   Labs / Radiology
   8.5 g/dL
   73 K/uL
   216 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.1 mEq/L
   26 mg/dL
   112 mEq/L
   145 mEq/L
   26.5 %
   32.4 K/uL
        [image002.jpg]
                             [**2152-6-8**]  03:58 AM
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
                             [**2152-6-10**]  12:16 PM
                             [**2152-6-11**]  03:04 AM
                             [**2152-6-11**]  04:47 PM
                             [**2152-6-12**]  05:04 AM
   WBC
   30.2
   25.7
   29.0
   32.4
   32.4
   Hct
   31.8
   26.5
   25.9
   26.0
   26.5
   26.5
   Plt
   124
   97
   90
   86
   73
   Cr
   1.2
   1.0
   1.0
   0.9
   1.0
   0.9
   TCO2
   14
   16
   19
   Glucose
   131
   128
   188
   161
   268
   216
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:683 IU/L, Ca++:10.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   Worse mental status with aggressive, rapidly progressing metastatic
   breast cancer.
   Resp status stable- appears comfortable on 5L NC.
   Abd mildly tender.
   Hypercalcemia improved.
   Other issues per Dr [**Last Name (STitle) 2957**]
s note.
   Will be discussing with [**Name (NI) **] husband - rec transition to [**Name (NI) 617**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2152-06-13 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2152-6-12**] 09:12 PM
   sodium increasing- started on D5 1/2 NS at 75cc/hr
   Goals of care meeting delayed until 1:30 p.m. on [**6-13**] for family
   reasons
   worsening somnolence and tachycardia, rates to 140 with slightly
   worsening hypoxia (94% on 6L down to 89%)- normotensive, possibly in
   more pain but no decrease in HR with morphine IV 2mg x 2, CVP 9, good
   UOP so unlikely dry.  Possible PE but d/w family and daughter stated CT
   scan not in line with goals of care as movement would cause pain and
   anticoagulation would put patient at risk for intracranial bleed.  In
   addition possible tamponade as ?pulsus on monitor..
   Allergies:
   Imdur (Oral) (Isosorbide Mononitrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2152-6-12**] 08:00 AM
   Metronidazole - [**2152-6-13**] 01:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2152-6-13**] 02:00 AM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-6-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2152-6-12**] 08:00 AM
   Lorazepam (Ativan) - [**2152-6-13**] 01:15 AM
   Morphine Sulfate - [**2152-6-13**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-6-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 137 (95 - 146) bpm
   BP: 96/41(58) {85/39(55) - 138/58(84)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 13 (3 - 15)mmHg
   Total In:
                                                                  2,138 mL
                                                                  1,045 mL
   PO:
   TF:
   IVF:
                                                                  2,138 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                  3,476 mL
                                                                    220 mL
   Urine:
                                                                  3,476 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,338 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   8.5 g/dL
   137 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.5 mEq/L
   24 mg/dL
   115 mEq/L
   148 mEq/L
   26.5 %
   32.4 K/uL
        [image002.jpg]
                             [**2152-6-8**]  04:08 AM
                             [**2152-6-8**]  01:38 PM
                             [**2152-6-9**]  05:24 AM
                             [**2152-6-9**]  02:11 PM
                             [**2152-6-10**]  03:30 AM
                             [**2152-6-10**]  12:16 PM
                             [**2152-6-11**]  03:04 AM
                             [**2152-6-11**]  04:47 PM
                             [**2152-6-12**]  05:04 AM
                             [**2152-6-12**]  04:15 PM
   WBC
   25.7
   29.0
   32.4
   32.4
   Hct
   26.5
   25.9
   26.0
   26.5
   26.5
   Plt
   97
   90
   86
   73
   Cr
   1.0
   1.0
   0.9
   1.0
   0.9
   0.8
   TCO2
   14
   16
   19
   Glucose
   128
   188
   161
   [**Telephone/Fax (3) 3232**]
   Other labs: PT / PTT / INR:12.6/20.0/1.0, CK / CKMB /
   Troponin-T:107/5/0.05, ALT / AST:20/15, Alk Phos / T Bili:161/0.3,
   Differential-Neuts:89.0 %, Band:0.0 %, Lymph:0.0 %, Mono:7.0 %, Eos:0.0
   %, D-dimer:5391 ng/mL, Fibrinogen:1038 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:683 IU/L, Ca++:10.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   Family meeting on nights,  husband, daughters, grandchildren present
   family agreed to make pt comfort care
 morphine gtt started at 1
   mg/hr.     family stated this is what the pt wanted
 to be made
   comfortable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-6-4**] 02:00 PM
   Arterial Line - [**2152-6-4**] 06:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: